US05300639
2-(4-Ethoxyformimidoylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine dihydrochloride
A solution (700 ml) of 2-(4-cyanophenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine (8.00 g) in ethanol was saturated with hydrogen chloride, and allowed to stand overnight. It was concentrated under reduced pressure, and the residue was washed with ethyl ether and dried to give the title compound as a powder.

reactant | 2-(4-cyanophenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | 700 ml, 8.00 g | C(#N)C1=CC=C(C=C1)C=1SC=2NCCCCC2N1 | C14H13N3S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 2-(4-Ethoxyformimidoylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine dihydrochloride | Cl.Cl.C(C)OC(=N)C1=CC=C(C=C1)C=1SC=2NCCCCC2N1 | InChI=1S/C16H19N3OS.2ClH/c1-2-20-14(17)11-6-8-12(9-7-11)15-19-13-5-3-4-10-18-16(13)21-15;;/h6-9,17-18H,2-5,10H2,1H3;2*1H
